US05834486
c) 1-[2-(2-Pyridyl)-ethyl]-1,5,9-tri-BOC-1,5,9-triazanonane
A mixture of 12.2 ml (0.0863 mol) of bis(3-aminopropyl)amine (Fluka, Buchs, Switzerland), 11.36 ml (0.1 mol) of 2-vinylpyridine (approximately 95%), 10 ml of water and 10 ml of glacial acetic acid is heated at 100° C. for 1.5 hours, with stirring, and is then cooled to room temperature, rendered basic with 2N sodium hydroxide solution and concentrated in vacuo at 50° C. The residue is then partitioned between 100 ml of methylene chloride and 150 ml of 2N sodium hydroxide solution, and a solution of 70 g (0.32 mol) of di-tert-butyl dicarbonate in 150 ml of methylene chloride is added dropwise to the two-phase mixture, with vigorous stirring. After 15 hours' stirring at 20° C., 10 ml of 30% sodium hydroxide solution are added to the reaction mixture and stirring is continued for a further 3 hours The organic phase is then separated off, washed with brine, dried over sodium sulfate, filtered and concentrated by evaporation. The residue is purified by flash chromatography on silica gel having a particle size of 0.04-0.063 mm using tert-butyl methyl ether as eluant. After concentration of the product-containing fractions by evaporation, the title compound is obtained in the form of a resin, Rf value=0.17 (silica gel/methylene chloride:methanol (30:1))

reactant | bis(3-aminopropyl)amine | 0.0863 mol, 12.2 ml | NCCCNCCCN | C6H17N3
reactant | 2-vinylpyridine | 0.1 mol, 11.36 ml | C(=C)C1=NC=CC=C1 | C7H7N
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 0.32 mol, 70 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 1-[2-(2-Pyridyl)-ethyl]-1,5,9-tri-BOC-1,5,9-triazanonane | N1=C(C=CC=C1)CCN(CCCN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C28H48N4O6
